US05919801
A solution of 20 ml of tetrahydrofuran (THF) containing 1 g of 4-methoxybenzoyl chloride is added dropwise to a solution of 30 ml of THF containing 0.73 g of 4-(3-cyclopentyloxy-4-methoxybenzyl)piperidine, 0.78 ml of triethylamine and 0.2 g of 4-N,N-dimethylaminopyridine, and the mixture is stirred under argon at room temperature. The reaction mixture is stirred at room temperature for 4 hours, diluted with 150 ml of diethyl ether, washed with a saturated aqueous sodium carbonate solution and then with water, and washed with a 1N HCl solution and then washed again with water. The organic phase is dried over magnesium sulphate and concentrated. The residual oil is filtered over silica by the flash chromatography technique using a toluene/ethanol mixture (97:3) as eluant. 4-(3-Cyclopentyloxy-4-methoxybenzyl)-1-(4-methoxybenzoyl)piperidine is obtained in the form of an oil.

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-methoxybenzoyl chloride | 1 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | THF | 30 ml, 0.73 g | O1CCCC1 | C4H8O
reactant | 4-(3-cyclopentyloxy-4-methoxybenzyl)piperidine | C1(CCCC1)OC=1C=C(CC2CCNCC2)C=CC1OC | C18H27NO2
reactant | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4-(3-Cyclopentyloxy-4-methoxybenzyl)-1-(4-methoxybenzoyl)piperidine | C1(CCCC1)OC=1C=C(CC2CCN(CC2)C(C2=CC=C(C=C2)OC)=O)C=CC1OC | C26H33NO4
